US04021479
4-(2'-Chloro-4-biphenylyl)-butyric acid
18.6 gm of 4-(2'-chloro-4-biphenylyl)-4-hydroxybutyric acid (obtained by acidifying 20 gm of its sodium salt and extraction with ethyl acetate) were hydrogenated in 200 ml of glacial acetic acid in the presence of 2 ml of perchloric acid and in the presence of palladium/barium sulfate (5%) at room temperature and at a hydrogen pressure of 5 atmospheres. After filtration, the solvent was evaporated and the residue admixed with water; the crystalline acid was collected and dried. Yield: 70% of theory; m.p. 60°-61° C. (from petroleum ether). Melting point of the cyclohexylamine salt: 143°-144° C. (from water).

reactant | 4-(2'-chloro-4-biphenylyl)-4-hydroxybutyric acid | 18.6 gm | ClC1=C(C=CC=C1)C1=CC=C(C=C1)C(CCC(=O)O)O | C16H15ClO3
reactant | perchloric acid | 2 ml | Cl(=O)(=O)(=O)O | ClHO4
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
catalyst | palladium/barium sulfate | [Pd] | Pd
product | 4-(2'-Chloro-4-biphenylyl)-butyric acid | Yield: 70% | ClC1=C(C=CC=C1)C1=CC=C(C=C1)CCCC(=O)O | C16H15ClO2
